### PR TITLE
Add sorting lemmas specialized for `porderType` and `orderType`

### LINKED ISSUE #622: Missing sorting lemmas specialized for `orderType`
> > Since `gtn n m` is convertible to `m < n`, we can rather use `ltn_trans` and `ltnn`. But if there are any use cases that `ltn_trans` and `ltnn` are not applicable, I would like to see.
> 
> I came across it when sorting in descending order and afterwards using the lemmas about `sort` (an example is `sorted_uniq`) which often leaves you with a goal `transitive gtn`. I know that `transitive gtn` can easily be derived from `ltn_trans`, but I think that this should be closed with just a single `apply` (or ideally just providing the argument directly to `sorted_uniq`), which I don't think it can without introductions using only `ltn_trans`.

I see. Let me suggest another solution. Some sorting related lemmas specialized to `orderType` are also available in the order library. You may use them with dual ordering, e.g.,
```coq
Import Order.Theory.

Check (@sort_le_sorted _ [orderType of nat^d]).
(*
sort_le_sorted
     : forall s : seq [orderType of nat^d], sorted <=^d%O (sort <=^d%O s)
*)
Check (fun s : seq nat^d => sort_le_sorted s).
(*
[eta sort_le_sorted]
     : forall s : seq nat^d, sorted <=^d%O (sort <=^d%O s)
*)
```
where `<=^d%O` means `geq` here. Unfortunately, many lemmas including `sorted_uniq` are missing in order.v, but we can add them anyway.

_Originally posted by @pi8027 in https://github.com/math-comp/math-comp/issues/505#issuecomment-657971174_

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Closes #622

`sorted_(ltn|leq)_(nth|index)` lemmas specialized for `porderType` are still missing on purpose. https://github.com/math-comp/math-comp/pull/601#discussion_r523141733

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~[ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/order.v [hunk 1]
```diff
@@ -3741,6 +3795,30 @@ Hint Resolve sort_le_sorted : core.
...
+
+Lemma subseq_sort_le : {homo sort <=%O : s1 s2 / @subseq T s1 s2}.
+Proof. exact/subseq_sort/le_trans/le_total. Qed.
+
+Lemma sorted_subseq_sort_le s1 s2 :
+  subseq s1 s2 -> sorted <=%O s1 -> subseq s1 (sort <=%O s2).
+Proof. exact/sorted_subseq_sort/le_trans/le_total. Qed.
+
+Lemma mem2_sort_le s x y : x <= y -> mem2 s x y -> mem2 (sort <=%O s) x y.
+Proof. exact/mem2_sort/le_trans/le_total. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:3820]: Since `<=%O` is antisymmetric, these stability lemmas may not be that useful. I have no idea whether they are needed or not.

**Comment by pi8027** [comment]
Now I think it makes a lot of sense to wait for a major update of real-closed to see what we need here.

**Comment by pi8027** [comment]
I will resume this PR after #727 and #738 get merged.

**Comment by pi8027** [comment]
> `sorted_(ltn|leq)_(nth|index)` lemmas specialized for `porderType` are still missing on purpose. [#601 (comment)](https://github.com/math-comp/math-comp/pull/601#discussion_r523141733)

`(lt|le)_sorted_(ltn|leq)_nth` are actually introduced in #738. We should probably double-check them.

**Review by CohenCyril — APPROVED** [review]
LGTM
